US08202894B2
c) Preparation of 2-(3,5-dichlorobenz[b]thiophene-2-yl)-2-methoxy-1-methylethylamine (compound Z3.2)
In a sulfonation flask 15 ml (0.015 mol) of an etheral 1 molar LiAlH4 solution is diluted with 40 ml of diethylether. A solution of 0.97 g (0.003 mol) 3,5-dichloro-2-(1-methoxy-2-nitropropyl)benzo[b]thiophene and 30 ml diethylether is added under stirring in such a manner that the internal temperature remains constant at 0-5° C. Then the mixture is warmed up to it and stirring continued for 5 h. Then the reaction mixture is cooled again and water added slowly. After quenching sodium sulphate is added. Filtration and distilling off the solvent in a water jet vacuum, the raw material is obtained. Purification is achieved by column chromatography (eluent: tert. butylmethylether/EtOH 3:1). Yield: 0.62 g (87% of theory) yellowish oil consisting of a diastereoisomeric mixture (ratio:ca. 2:1). 1H-NMR: 1.05/d/3H-DS1 (minor isomer), 1.13/d/3H, DS2 (major isomer), 3.2/m/1H-DS1, 3.35/s/6H-DS1+DS2, 3.39/m/1H-DS2, 4.45/d/1H-DS1, 4.52/d/1H-DS2, 7.38/m/2H-DS1+DS2, 7.72/d/2H-DS1+DS2, 7.8/2 s/DS1+DS2.

reactant | LiAlH4 | 1 molar | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3,5-dichloro-2-(1-methoxy-2-nitropropyl)benzo[b]thiophene | 0.003 mol, 0.97 g | ClC=1C2=C(SC1C(C(C)[N+](=O)[O-])OC)C=CC(=C2)Cl | C12H11Cl2NO3S
reactant | water | O | H2O
solvent | diethylether | 40 ml | C(C)OCC | C4H10O
solvent | diethylether | 30 ml | C(C)OCC | C4H10O
product | 2-(3,5-dichlorobenz[b]thiophene-2-yl)-2-methoxy-1-methylethylamine | ClC=1C2=C(SC1C(C(C)N)OC)C=CC(=C2)Cl | C12H13Cl2NOS
